US06417200B1
A) N1-[[1-(benzyloxycarbonylamino(benzyloxycarbonylimino)methyl)piperidin-3-yl]carbonyl]-N2-(4-t-butylbenzoyl)-4-carboxy-1,2-benzenediamine
To a solution of N1-[[1-(benzyloxycarbonylamino(benzyloxycarbonylimino)methyl)piperidin-3-yl]carbonyl]-N2-(4-t-butylbenzoyl)-4-methoxycarbonyl-1,2-benzenediamine (0.7 g, 0.94 mmol), CH3OH (10 mL), dioxane (10 mL), and water (6 mL) was added 1 N NaOH (3.7 mL, 3.7 mmol). The reaction was stirred for 48 h and was concentrated. The residue was partitioned between H2O (100 mL) and Et2O (100 mL). The aqueous layer was extracted with Et2O (100 mL), acidified to pH 2.5 with 5 N HCl and extracted with EtOAc (3×200 mL). The combined EtOAc layers were washed with water, MgSO4 dried, concentrated and crystallized at 0° C. overnight to give the title compound as a solid (0.63 g, 92%); TLC: Rf=0.38 (1:15: 135 acetic acid:methanol:chloroform); NMR (CDCl3) δ1.35 (s,9H), 1.50-2.05 (m, 8H), 3.20-3.40 (m, 1N), 3.60-4.05 (m, 3H), 5.05 (s, 4H), 7.20-7.35 (m, 12H), 7.40-7.50 (m, 2H), 7.55-7.65 (m, 1H), 7.90-8.00 (m, 2H), 8.05-8.15 (m, 1H); MS(FAB): 734 (MH+).

reactant | N1-[[1-(benzyloxycarbonylamino(benzyloxycarbonylimino)methyl)piperidin-3-yl]carbonyl]-N2-(4-t-butylbenzoyl)-4-methoxycarbonyl-1,2-benzenediamine | 0.94 mmol, 0.7 g | C(C1=CC=CC=C1)OC(=O)NC(N1CC(CCC1)C(=O)NC=1C(=CC(=CC1)C(=O)OC)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=NC(=O)OCC1=CC=CC=C1 | C42H45N5O8
reactant | CH3OH | 10 mL | CO | CH4O
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | NaOH | 3.7 mmol, 1 N, 3.7 mL | [OH-].[Na+]
solvent | water | 6 mL | O | H2O
product | N1-[[1-(benzyloxycarbonylamino(benzyloxycarbonylimino)methyl)piperidin-3-yl]carbonyl]-N2-(4-t-butylbenzoyl)-4-carboxy-1,2-benzenediamine | 0.63 g, 92% | C(C1=CC=CC=C1)OC(=O)NC(N1CC(CCC1)C(=O)NC=1C(=CC(=CC1)C(=O)O)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=NC(=O)OCC1=CC=CC=C1 | C41H43N5O8
